US05409943
(a) N-(3-Benzyloxypyrid-2-yl)-N'-(3,4-dichlorophenyl)thiourea
A mixture of 2-amino-3-benzyloxypyridine (2.14 g, 0.011 mol), 3,4-dichlorophenyl isothiocyanate (2.62 g, 0.013 mol) and toluene (10 ml) was refluxed for 3.5 hours, then cooled and treated with ether to induce crystallisation of the product. Yield 3.64 g (84%), m.p. 144°-146 ° C.

reactant | 2-amino-3-benzyloxypyridine | 0.011 mol, 2.14 g | NC1=NC=CC=C1OCC1=CC=CC=C1 | C12H12N2O
reactant | 3,4-dichlorophenyl isothiocyanate | 0.013 mol, 2.62 g | ClC=1C=C(C=CC1Cl)N=C=S | C7H3Cl2NS
reactant | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | ether | CCOCC | C4H10O
product | N-(3-Benzyloxypyrid-2-yl)-N'-(3,4-dichlorophenyl)thiourea | C(C1=CC=CC=C1)OC=1C(=NC=CC1)NC(=S)NC1=CC(=C(C=C1)Cl)Cl | C19H15Cl2N3OS
